US05047557
Preparation of (R)-3-hydroxy-5-methylhexanoic acid
4.4 ml of 1.6M butyllithium in hexane are added under argon and at -25° C. to a solution of 1.12 ml of diisopropylamine in 15 ml of anhydrous diethyl ether (ether). After 25 minutes at -20° C., the mixture is cooled to -78° C. and 805 μl of tert-butyl acetate are added dropwise in the course of 10 minutes by means of a syringe. After stirring for 45 minutes at -78° C., a freshly prepared solution, precooled to -78° C., of 4.9 g of [(4R,5R)-2,2-dimethyl-1,3-dioxolane-4,5-bis-(diphenylmethoxy)]-cyclopentadienyltitanium chloride (according to Example 2a) in approx. 100 ml of ether is added via a cannula in the course of 15 minutes. The mixture is stirred for 30 minutes at -78° C. and for 3 hours at -30° C. and cooled to -78° C. and 650 μl of isovaleraldehyde are added by means of a syringe in the course of 5 minutes. After 2 hours at -78° C., 20 ml of 45% NH4F solution are added and the mixture is warmed to room temperature. After stirring for 17 hours it is filtered, 10 ml of saturated sodium chloride solution are added to the filtrate and the mixture is extracted with three times 100 ml of ether. The organic phases are washed with saturated NaCl solution and 1N Hcl, dried (MgSO4) and evaporated. The residue (5.1 g) is stirred in 6 ml of 2N sodium hydroxide solution and 12 ml of methanol for 2 hours at 50° C. After the methanol has been removed by evaporation in vacuo, the residue is extracted with three times 50 ml of ether. The aqueous phase is acidified with concentrated hydrochloric acid and extracted with three times 100 ml of ethyl acetate. The ethyl acetate phases are washed with twice 50 ml of saturated sodium chloride solution, dried (MgSO4) and evaporated. The residue, 835 mg of 1-(R)-3-hydroxy-5-methylhexanoic acid of 78% optical purity, is recrystallized twice from cyclohexane (60 ml and 150 ml). Yield: 595 mg of product of 96% optical purity, melting point 86° C.; [α]D =-14.7° (c=1, CHCl3). (+)-(R)-Ipsenol can be prepared from this by the instructions in EP-A 0,254,685 (Example 41d to 41g).

reactant | butyllithium | 1.6M, 4.4 ml | C(CCC)[Li]
reactant | diisopropylamine | 1.12 ml | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl acetate | 805 μl | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | isovaleraldehyde | 650 μl | C(CC(C)C)=O | C5H10O
reactant | NH4F | 20 ml | [NH4+].[F-]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ether | approx. 100 ml | CCOCC | C4H10O
product | (R)-3-hydroxy-5-methylhexanoic acid | O[C@@H](CC(=O)O)CC(C)C | C7H14O3
